US04576963
Acetylsalicylic acid 3,7-dimethyl-2,6-octadienyl ester
7 g of 3,5-dimethyl-2,6-octadienol (geraniol) and 6.8 g of triethylamine were dissolved in 50 ml of tetrahydrofuran. 13.4 g of acetylsalicylic acid chloride was added dropwise to the solution under cooling. After stirring at room temperature for 30 minutes, water was added to the reaction mixture and the product was extracted with n-hexane.

reactant | 3,5-dimethyl-2,6-octadienol | 7 g | CC(=CCO)CC(C=CC)C | C10H18O
reactant | triethylamine | 6.8 g | C(C)N(CC)CC | C6H15N
reactant | acetylsalicylic acid chloride | 13.4 g | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Acetylsalicylic acid 3,7-dimethyl-2,6-octadienyl ester | CC(=CCOC(C=1C(OC(C)=O)=CC=CC1)=O)CCC=C(C)C | C19H24O4
